US07737151B2
N-(4-(6-chloropyrazin-2-ylthio)phenyl)cyclopropanecarboxamide
To a solution of N-(4-mercaptophenyl)cyclopropane carboxamide (16.1 mmol) in THF (25 mL) at 0° C. was added sodium hydride (16.1 mmol) portionwise. Once the addition was complete the resulting solution was stirred at room temperature for 30 min. After this time, the reaction mixture was cooled to 0° C. and a solution of 2,6-dichloropyrazine (13.4 mmol) was added and the resulting mixture stirred at room temperature for 16 h. Water (30 mL) and ethyl acetate (30 mL) were added and the layers separated. The aqueous layer was extracted further with ethyl acetate (2×30 mL), the combined organic layers dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (EtOAc/Petroleum ether, 0-100% gradient EtOAc) to give the title compound (2.95 g, 72%) as a cream coloured solid; 1H NMR (400 MHz, DMSO-d6) δ 0.91 (2H, m), 1.13 (2H, m), 1.54 (1H, m), 7.53 (1H, br s), 7.57 (2H, m), 7.65 (2H, m), 7.96 (1H, s), 8.22 (1H, s); MS (ES+): m/e=306.14 (100%).

reactant | N-(4-mercaptophenyl)cyclopropane carboxamide | 16.1 mmol | SC1=CC=C(C=C1)NC(=O)C1CC1 | C10H11NOS
reactant | sodium hydride | 16.1 mmol | [H-].[Na+]
reactant | 2,6-dichloropyrazine | 13.4 mmol | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | Water | 30 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-(6-chloropyrazin-2-ylthio)phenyl)cyclopropanecarboxamide | 2.95 g, 72% | ClC1=CN=CC(=N1)SC1=CC=C(C=C1)NC(=O)C1CC1 | C14H12ClN3OS
